US07202268B2
A) 7-Chloro-2-methyl-1-(3-((methyl-sulfonyl)amino)propyl)-1H-indole-3-carboxylic acid
Under nitrogen, 2 g of 7-chloro-2-methyl-1-[3-(methylsulfonylamino)propyl]indole are dissolved in 16 ml of TCE at AT and 0.645 ml of oxalyl chloride in 7 ml of TCE is added. The mixture is heated at 120° C. for 16 hours and then cooled to AT. The reaction medium is diluted by adding 20 ml of water and is then poured onto 50 ml of a 10% HCl solution. The mixture is separated by settling out and the aqueous phase is then washed with DCM. The organic phases are combined and then washed with a saturated NaCl solution. Drying over Na2SO4 followed by concentration to dryness are performed and the product is purified by chromatography on silica, elution being carried out with CH2Cl2-MeOH (95/5; v/v). 1.33 g of the expected compound are obtained.

reactant | 7-chloro-2-methyl-1-[3-(methylsulfonylamino)propyl]indole | 2 g | ClC=1C=CC=C2C=C(N(C12)CCCNS(=O)(=O)C)C | C13H17ClN2O2S
reactant | water | 20 ml | O | H2O
reactant | HCl | Cl | ClH
reactant | oxalyl chloride | 0.645 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 7-Chloro-2-methyl-1-(3-((methyl-sulfonyl)amino)propyl)-1H-indole-3-carboxylic acid | 1.33 g | ClC=1C=CC=C2C(=C(N(C12)CCCNS(=O)(=O)C)C)C(=O)O | C14H17ClN2O4S
